US09238647B2
Step B: Benzyl [(1S)-1-(4H-1,2,4-triazol-3-yl)ethyl]carbamate
To a solution of benzyl[(1S)-2-amino-1-methyl-2-thioxoethyl]carbamate (13.4 g, 56.2 mmol) in ethanol (1.125 L) was added formic acid hydrazide (20.26 g, 337 mmol) and mercury(II) chloride (19.85 g, 73.1 mmol). After 1 h the reaction was filtered and concentrated. Saturated aqueous sodium carbonate and ethyl acetate were added. The organic layer was isolated and the aqueous layer was extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered, and concentrated. A solution of the resulting residue in ethanol (1.125 L) was heated to 80° C. After 16 h, the reaction was concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol with 1% ammonium hydroxide) gave the title compound (8.7 g). MS 247.1 (M+1).

reactant | benzyl[(1S)-2-amino-1-methyl-2-thioxoethyl]carbamate | 56.2 mmol, 13.4 g | C(C1=CC=CC=C1)OC(N[C@H](C(=S)N)C)=O | C11H14N2O2S
reactant | formic acid hydrazide | 337 mmol, 20.26 g | C(=O)NN | CH4N2O
solvent | ethanol | 1.125 L | C(C)O | C2H6O
catalyst | mercury(II) chloride | 73.1 mmol, 19.85 g | [Hg](Cl)Cl
product | Benzyl [(1S)-1-(4H-1,2,4-triazol-3-yl)ethyl]carbamate | 8.7 g | N=1N=C(NC1)[C@H](C)NC(OCC1=CC=CC=C1)=O | C12H14N4O2
